US07393873B2
Under N2, chlorosulfonic acid (1.5 g, 12.87 mmol) was diluted in CCl4 (2 mL) and cooled to 0° C. Then 3-phenyl-1,3-oxazolidin-2-one (280 mg, 1.72 mmol) was diluted in CCl4 (2 mL) and added slowly to the reaction mixture. The reaction mixture was stirred for two hours at 0° C. The reaction was then slowly quenched with ice water (4 mL) and extracted with CCl4 (3×4 mL). The organic extracts were dried over sodium sulfate and concentrated to give 4-(2-oxo-1,3-oxazolidin-3-yl)-benzenesulfonyl chloride which was used without purification.

reactant | chlorosulfonic acid | 12.87 mmol, 1.5 g | ClS(=O)(=O)O | ClHO3S
reactant | 3-phenyl-1,3-oxazolidin-2-one | 1.72 mmol, 280 mg | C1(=CC=CC=C1)N1C(OCC1)=O | C9H9NO2
solvent | CCl4 | 2 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 2 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(2-oxo-1,3-oxazolidin-3-yl)-benzenesulfonyl chloride | O=C1OCCN1C1=CC=C(C=C1)S(=O)(=O)Cl | C9H8ClNO4S
